US04877779
2-(1-Phenyl-1-trimethylsilyloxypent-4-ynyl)-1,3dithiane.
2-(1-Hydroxy-1-phenylpent-4-ynyl)-1,3 -dithiane (1.7 g 6.1 mmol) and 1.2 g (15 mmol) of imidazole was stirred in 25 mL of methylene chloride and 0.9 mL (15 mmol) of chlorotrimethylsilane was added. The mixture was stirred overnight when it was poured onto 20 mL of 10% aqueous K2CO3. The organics were washed with brine, dried (Na2SO4) and concentrated at reduced pressure. The residue was mixed with Celite and chromatographed on 110 g of silica (99:1, hexane:ethyl acetate, then 2% ethyl acetate) to give 2.14 g (90%) of a product that crystallized upon concentration at reduced pressure. Analytical TLC (silica, 9:2, hexane:ethyl acetate) Rf0.56; 1H NMR (CDCl3) δ1.65-2.05 (m, 5H), 2.05-2.2 (m, 1H), 2.28-2.4 (m, 1H), 2.45-2.6 (m, 1H), 2.7-2.87 (m, 4H), 4.37 (s, 1H), 7.25-7.4 (m, 3H), 7.42-7.5 (m, 2H).

reactant | 2-(1-Hydroxy-1-phenylpent-4-ynyl)-1,3 -dithiane | 6.1 mmol, 1.7 g | OC(CCC#C)(C1=CC=CC=C1)C1SCCCS1 | C15H18OS2
reactant | imidazole | 15 mmol, 1.2 g | N1C=NC=C1 | C3H4N2
reactant | chlorotrimethylsilane | 15 mmol, 0.9 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | K2CO3 | 20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-Phenyl-1-trimethylsilyloxypent-4-ynyl)-1,3dithiane | 2.14 g, 90% | C1(=CC=CC=C1)C(CCC#C)(O[Si](C)(C)C)C1SCCCS1 | C18H26OS2Si
